US04289844
3,3'-carbonylbis(5,7-di-isopropoxycoumarin).
A mixture of two or more of any of the above coumarins is useful, as are water-soluble 3-ketocoumarins such as 3-(7-methoxy-3-coumarinoyl)-1-methylpyridinium p-toluenesulfonate; 4-(7-methoxy-3-coumarinoyl)-N,N,N-trimethylanilinium fluorosulfonate; sodium 4-(7-methoxy-3-coumarinoyl)benzoate; sodium 4-(7-methoxy-3-coumarinoyl)benzenesulfonate; 3,3'-carbonylbis(sodium 6-coumarincarboxylate); and 3,3'-carbonylbis(6-coumarincarboxylic acid).

reactant | 3-(7-methoxy-3-coumarinoyl)-1-methylpyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.COC1=CC=C2C=C(C(OC2=C1)=O)C(=O)C=1C=[N+](C=CC1)C
reactant | 4-(7-methoxy-3-coumarinoyl)-N,N,N-trimethylanilinium fluorosulfonate | FS(=O)(=O)[O-].COC1=CC=C2C=C(C(OC2=C1)=O)C(=O)C1=CC=C([N+](C)(C)C)C=C1
reactant | sodium 4-(7-methoxy-3-coumarinoyl)benzoate | COC1=CC=C2C=C(C(OC2=C1)=O)C(=O)C1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | sodium 4-(7-methoxy-3-coumarinoyl)benzenesulfonate | COC1=CC=C2C=C(C(OC2=C1)=O)C(=O)C1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | 3,3'-carbonylbis(6-coumarincarboxylic acid) | C(=O)(C=1C(OC2=CC=C(C=C2C1)C(=O)O)=O)C=1C(OC2=CC=C(C=C2C1)C(=O)O)=O | C21H10O9
solvent | water | O | H2O
product | 3,3'-carbonylbis(5,7-di-isopropoxycoumarin) | C(=O)(C=1C(OC2=CC(=CC(=C2C1)OC(C)C)OC(C)C)=O)C=1C(OC2=CC(=CC(=C2C1)OC(C)C)OC(C)C)=O | C31H34O9
